US07435837B2
(±)-[(N-methyl-1-[7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine
The title compound was prepared (0.052 g, 23%) following the general procedure of Example 154 as a white solid, hydrochloride salt from (±)-[(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl]methylamine (0.200 g, 0.826 mmol) and 4-methoxyphenylboronic acid (0.188 g, 1.24 mmol). mp 214-217° C.

reactant | (±)-[(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl]methylamine | 0.826 mmol, 0.200 g | BrC1=CC=CC=2CC(OC21)CNC | C10H12BrNO
reactant | 4-methoxyphenylboronic acid | 1.24 mmol, 0.188 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | N-methyl-1-[7-(4-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | CNCC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)OC | C17H19NO2
